US09422390B2
Dioxomolybdenum(VI) bis(N,N-diethyl-3-phenyl-3-oxopropane amidate)
2.05 g sodium molybdate dihydrate and 4.33 g N,N-diethyl-3-phenyl-3-oxopropanamide were reacted according to General Preparation Procedure B. The product consisted of 5.18 g of a yellow, microcrystalline solid.

reactant | sodium molybdate dihydrate | 2.05 g | O.O.[O-][Mo](=O)(=O)[O-].[Na+].[Na+]
reactant | N,N-diethyl-3-phenyl-3-oxopropanamide | 4.33 g | C(C)N(C(CC(=O)C1=CC=CC=C1)=O)CC | C13H17NO2
product | Dioxomolybdenum(VI) bis(N,N-diethyl-3-phenyl-3-oxopropane amidate) | C(C)N(C(CC(=O)C1=CC=CC=C1)=O)CC.C(C)N(C(CC(=O)C1=CC=CC=C1)=O)CC.O=[Mo+2]=O | InChI=1S/2C13H17NO2.Mo.2O/c2*1-3-14(4-2)13(16)10-12(15)11-8-6-5-7-9-11;;;/h2*5-9H,3-4,10H2,1-2H3;;;/q;;+2;;
